US07459554B2
General procedure to Examples 33 and 34: A THF solution (3 mL) of trans-toluene-4-sulfonic acid 4-[8-amino-1-(3-benzyloxy-phenyl)imidazo[1,5-a]pyrazin-3-yl]-cyclohexylmethyl ester (200 mg, 0.34 mmol) in a sealed tube was charged with azetidine (8.92 mmol, 510 mg) and stirred at 50° C. for 24 h. The reaction mixture concentrated in vacuo and partitioned b/w EtOAc and sat. NaHCO3. The organic layer was washed with sat. NaHCO3 (2×), water (1×), brine (1×), dried over Na2SO4, filtered, and concentrated to a yellow oil. The crude material was purified by silica gel column chromatography [Jones Flashmaster, 5 g/25 mL cartridge, eluting with CH2Cl2 to 2% ˜7 N NH3 in MeOH/CH2Cl2] to afford trans-3-(4-azetidin-1-ylmethyl-cyclohexyl)-1-(3-benzyloxy-phenyl)-imidazo[1,5-a]pyrazin-8-ylamine as a white solid (130 mg, 82%).

reactant | trans-toluene-4-sulfonic acid 4-[8-amino-1-(3-benzyloxy-phenyl)imidazo[1,5-a]pyrazin-3-yl]-cyclohexylmethyl ester | 0.34 mmol, 200 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)COS(=O)(=O)C2=CC=C(C=C2)C | C33H34N4O4S
reactant | azetidine | 8.92 mmol, 510 mg | N1CCC1 | C3H7N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | trans-3-(4-azetidin-1-ylmethyl-cyclohexyl)-1-(3-benzyloxy-phenyl)-imidazo[1,5-a]pyrazin-8-ylamine | 130 mg, 82% | N1(CCC1)C[C@@H]1CC[C@H](CC1)C1=NC(=C2N1C=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C29H33N5O
